2171-03-04 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2171-3-3**] 07:25 PM- Right upper extremity: no
   evidence of right upper extremity DVT
   - spoke to [**Location (un) 11374**] micro lab - only one set of blood cx from [**2-19**] -
   final NG, only other cx is NGTD urine from [**3-2**]
   - bedside echo could not visualize tricuspid valve well, recommend
   complete study tomorrow
   - restarted home metoprolol (pt paced, so brady is not an issue)
   - not getting ID involved b/c think vegetation likely marantic, we need
   to discuss how to visualize liver lesions seen on CT
   - FYI referring physsician is Dr. [**Last Name (STitle) 11398**] [**Telephone/Fax (1) 11399**] - office
   phone, no answer on Sunday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-2**] 07:30 PM
   Vancomycin - [**2171-3-3**] 08:00 PM
   Piperacillin - [**2171-3-4**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2171-3-3**] 08:00 AM
   Famotidine (Pepcid) - [**2171-3-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-4**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (64 - 66) bpm
   BP: 101/50(63) {87/42(56) - 138/61(81)} mmHg
   RR: 15 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 69 Inch
             Total In:
                                                                  2,771 mL
                                                                    700 mL
   PO:
             TF:
                                                                    443 mL
                                                                    430 mL
   IVF:
                                                                  1,978 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,264 mL
                                                                    228 mL
   Urine:
                                                                  1,264 mL
                                                                    228 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,507 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 7.5 L/min
   Physical Examination
   GEN: Intubated, sedated and unresponsive
   SKIN: Stage 1 pressure ulcer on back
   HEENT: Prominent JVP at 30 degrees, neck supple, No lymphadenopathy
   noted.
   CHEST: Diffuse Rhonchi in all lung fields
   CARDIAC: S1 & S2 regular without murmur appreciated
   ABDOMEN: G tube in place, no erythema around site.  Nontender or rigid
   EXTREMITIES: trace peripheral edema, warm without cyanosis
   NEUROLOGIC: Sedated, not responsive to commands, pinpoint pupils
   Labs / Radiology
   558 K/uL
   9.3 g/dL
   240 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   19 mg/dL
   100 mEq/L
   135 mEq/L
   29.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2171-3-2**]  08:09 PM
                             [**2171-3-3**]  03:21 AM
                             [**2171-3-3**]  12:09 PM
                             [**2171-3-4**]  02:37 AM
   WBC
   8.1
   7.1
   Hct
   28.0
   29.1
   Plt
   543
   558
   Cr
   0.6
   0.7
   TropT
   0.04
   0.03
   TCO2
   38
   Glucose
   41
   240
   Other labs: PT / PTT / INR:26.6/40.1/2.6, CK / CKMB /
   Troponin-T:27//0.03, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: [**2171-3-3**] RUE ultrasound:
   IMPRESSION: No evidence of right upper extremity DVT.
   [**2171-3-3**] CTA Chest and CT abd/pelvis with contrast:
   1. 13 mm soft tissue density nodule along the septal leaflet of the
   tricuspid
   valve, concerning for infective endocarditis; less likely, thrombus.
   Recommend echocardiogram. No pulmonary embolus or acute aortic
   abnormality.
   2. Left upper and lower lobe pneumonia. Bilateral pleural effusions,
   small
   on the left and moderate on the right.
   3. Left hepatic lobe atrophy and central biliary ductal dilatation,
   with no
   definite mass identified. Heterogeneous enhancement of the hepatic
   parenchyma
   could reflect perfusion, or could indicate enhancing lesions. This is
   concerning for biliary or hepatic neoplasm. This can be further
   assessed with
   MRI or multiphasic CT.
   4. Intermediate density right renal lesions which may represent
   hyperdense
   cysts. These can be further assessed via MRI, if obtained to evaluate
   the
   liver.
   5. Retroperitoneal lymphadenopathy.
   6. Small amount of fluid layering posteriorly in the pelvis.
   7. Marked atherosclerotic disease.
   [**2171-3-3**] ECHO (Fellow study):
   The aortic valve leaflets (3) are mildly thickened. Trace aortic
   regurgitation is seen. There is severe mitral annular calcification.
   There is a probable vegetation on the tricuspid valve.
   Microbiology: [**3-2**] Bcx x 2 - NGTD
   [**3-2**]: urine legionella negative
   [**3-3**]: Sputum: > 25PMNs with < 10 epis, no microorganisms seen
   [**3-3**] MRSA screen Pending
   [**Location (un) 11374**] labs:
   blood cx from [**2-19**] - final NG
   urine cx [**3-2**] NGTD
   Assessment and Plan
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status during/after
   [**Location (un) 1045**].
   #. Altered Mental Status: The patient has underlying dementia as
   evidenced by family &  recent notes. His acute decline midflight
   appears to correspond roughly to a rapid ventricular rate and lidocaine
   administration.  Seizure vs. anoxic brain injury at altitude/arrythmia,
   clot or septic emboli showering from ? vegitation.  Currently
   unresponsive and intubated for airway protection.
   - Daily wake up to assess mental status
   - EEG in AM
   - Echo to eval vegitation/clot
   - LP if no improvement
   - Obtain OSH CSF results
   - TSH
   - Check Ammonia
   #. PNA: The patient has been treated with various antibiotics for a
   presumed aspiration PNA over the past 2 weeks. Not febrile, no
   leukocytosis, possible that CXR findings represent old PNA not yet
   cleared.
   - Continue Vanc/Zosyn now
   - Respiratory support as above until mental status clears
   - Blood Cx, Sputum Cx
   - F/U OSH Micro
   - Add on legionella urinary antigen
   #. Hypothermia: Concern for sepsis vs. hypothyroidism vs. impaired
   shivering given mental status.
   - Warming blanket
   - Cultures
   #. Metabolic Alkalosis: Patient recently diuresed for "heart failure"
   based on CXR findings, although it is unclear he has heart failure.  No
   exposure to steroids, unable to compensate because of mechanical
   ventilation.
   - Permissive hypercapnia
   - Fluid rescusitation
   - Monitor UOP
   #. Diabetes Mellitus: Highly variable blood sugars
   - Reduce home lantus to 8, Humalog SS + dextrose PRN
   - Tube feeds
   #. ? RUE DVT: Currently therpeutic INR, U/S results not in records
   - Obtain outside records
   - Repeat RUE U/S
   - Transition to heparin drip if INR <2
   #. Sick Sinus: Paced, currently anticoagulated and rate controlled
   without medications, received Lidocaine in transit.
   - Hold metoprolol/diltiazem while rate controlled
   - Cardiac Enzymes
   #. Ventricular Dilitation: Possible NPH as cause, will obtain further
   symptom history from family.
   #. G-tube placement for ? esophagitis:  Will contact team in [**Name (NI) 490**]
   re: need for G-tube, in patient vs. outpatient GI to address esophageal
   issues, speech and swallow once awake.
   - start Tube feeds, nutrition recs
   #. Anemia: ACD vs. Iron deficiency
   - Iron, B12, Folate, Retic count, smear
   #. CAD: Continue ASA, restart statin as status improves
   - Hold metoprolol
   #. Hypertension: Borderline BPs
   - Hold lisinopril/metoprolol
   #. Hypothyroidism: Levothyroxine 150mcg PO Daily
   #. Chronic pancreatitis: Creon with meals/tube feeds
   # FEN: IVFs / replete lytes prn / tube feeds
   # PPX: H2 blocker, Therapeutic Coumadin & boots, bowel regimen
   # ACCESS: PIV x2
   # CODE:  Full, discussed with patient's wife
   # CONTACT:  Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**], H (daughter): [**Telephone/Fax (1) 11378**];
   H: [**Telephone/Fax (1) 11379**]
   # ICU CONSENT: Signed
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 2852**]
   [X] ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-3-4**] 05:08 AM 65 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-3-2**] 08:21 PM
   14 Gauge - [**2171-3-3**] 06:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2171-03-04 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo gentleman transferred from OSH w/ prog pneumonia.  Was noted at
   OSH to have triscupid valve vegetation also.  On [**Location (un) 1045**] transfer,
   patient had AF with RVR, got IV lidocaine, and also had decreasing MS,
   and hypoxemia.  Was intubated on arrival to our ED.  Overnight has done
   better and weaned down on vent settings.
   24 Hour Events:
   scant rusty sputum suctioned pe rRN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-2**] 07:30 PM
   Vancomycin - [**2171-3-3**] 08:00 PM
   Piperacillin - [**2171-3-4**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-3-3**] 10:00 PM
   Other medications:
   RISS, Peridex, ASA, Synthroid, folate, Vit D, Creon, Colace, metoprolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-4**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 65 (64 - 66) bpm
   BP: 101/50(63) {87/42(56) - 138/61(81)} mmHg
   RR: 15 (7 - 20) insp/min
   SpO2: 79%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 69 Inch
             Total In:
                                                                  2,771 mL
                                                                    776 mL
   PO:
             TF:
                                                                    443 mL
                                                                    498 mL
   IVF:
                                                                  1,978 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,264 mL
                                                                    228 mL
   Urine:
                                                                  1,264 mL
                                                                    228 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,507 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 332 (332 - 332) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 36 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 79%
   ABG: ///32/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, temporal wasting
   Cardiovascular: (S2: Loud), i could not appreciate a murmur, though a
   RLSB syst murmur was noted by the team
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L > R, Diminished: B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LUE 2+ swelling
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   558 K/uL
   240 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   19 mg/dL
   100 mEq/L
   135 mEq/L
   29.1 %
   7.1 K/uL
         [image002.jpg]
                             [**2171-3-2**]  08:09 PM
                             [**2171-3-3**]  03:21 AM
                             [**2171-3-3**]  12:09 PM
                             [**2171-3-4**]  02:37 AM
   WBC
   8.1
   7.1
   Hct
   28.0
   29.1
   Plt
   543
   558
   Cr
   0.6
   0.7
   TropT
   0.04
   0.03
   TCO2
   38
   Glucose
   41
   240
   Other labs: PT / PTT / INR:26.6/40.1/2.6, CK / CKMB /
   Troponin-T:27//0.03, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: UENIs- neg
   CT Chest ([**3-3**])- large R effusion w/ scattered ggo; diffuse L
   consolidation
   Microbiology: [**3-2**] Blood- neg to date
   [**3-2**] Urine Legionella- neg
   [**3-2**] Sputum- Gm stain neg, cx pending
   Assessment and Plan
   68 yo gentleman transferred from OSH w/ prog pneumonia and acute
   respiratory failure.
   1. Acute respiratory failure- significant pulmonary/ pleural disease w/
   clinical pneumonia
   -treating empirically w/ vanco + pip-tazo
   -f/u cultures
   -would pursue thoracentesis given hx of malignancy and fairly
   complicated parencyhmal disease
   -check ABG today
   -assess SBT today and consider extubation.
   2. Tricuspid vegetation
   -TTE today
   -unclear risk history as no prior indwelling line or IVDU
   -anticipate poss prolonged course, may need to involve ID svce
   3. LUE swelling- LUE ultrasound today
   4. Poss aspiration and hx erosive eosphagitis- s/p G-tube at OSH on [**2-26**]
   for this, unclear why this was done
   -will need to contact OSH today to clarify
   -cont tube feeds
   5. Liver lesions on CT- anticipate eventual further imaging of liver
   6. CAD- stable
   -cont BB and ASA; holding statin
   7. Anemia- no acute bleed, either Fe def or ACD
   -trend Hct
   8. Afib/ SSS- was on coumadin, held since admission but therpeutic INR
   still
   -rate-controlled for now
   9. HTN- holding anti HTN meds and monitor
   10. Met alkalosis- due to OSH diuresis
   -no indication for further diuresis at this point
   -supp IVF for now; can repeat ABG today as above to assess degree of
   alkalemia
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-3-4**] 05:08 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2171-3-2**] 08:21 PM
   14 Gauge - [**2171-3-3**] 06:25 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Critically Ill

2171-03-05 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2171-3-4**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2171-3-4**] 11:41 AM
 ULTRASOUND - At [**2171-3-4**] 01:01 PM
   LUE U/S
 THORACENTESIS - At [**2171-3-4**] 02:35 PM
 INVASIVE VENTILATION - STOP [**2171-3-4**] 05:30 PM
   - per Dr. [**Last Name (STitle) 11398**] ([**Telephone/Fax (1) 11412**]- [**Hospital 11374**] Community Hospital) G
   tube was placed given failure of video swallow study, in addition to
   erosive esophagitis, concern for aspiration, and previous radiation
   - updated [**Initials (NamePattern4) 1050**] [**Last Name (NamePattern4) 168**] area PCP (Dr. [**Last Name (STitle) 1717**], [**Location (un) 5865**], MA-
   [**Telephone/Fax (1) 11413**])
   - talked to [**Initials (NamePattern4) 1050**] [**Last Name (NamePattern4) 168**] area cardiologist (Dr. [**First Name4 (NamePattern1) 322**] [**Last Name (NamePattern1) **] in
   [**Hospital1 1097**], MA - [**Telephone/Fax (1) 11414**]) who states that the tricuspid valve
   vegetation was similar in size in [**2170-10-28**] and they had planned on
   obtaining a TEE for further characterization.  The patient's
   cardiologist would greatly appreciate period updates.
   - echo: R atrial mass likely myxoma or fibroelastoma; repeat echo
   pending
   - R-sided thoracentesis; 800 cc of fluid removed; transudative
   - extubated successfully
   - slightly confused overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-2**] 07:30 PM
   Vancomycin - [**2171-3-4**] 08:00 PM
   Piperacillin - [**2171-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-3-4**] 10:00 PM
   Dextrose 50% - [**2171-3-5**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-5**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 65 (62 - 92) bpm
   BP: 98/82(86) {98/45(61) - 163/107(114)} mmHg
   RR: 23 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.5 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  3,369 mL
                                                                    588 mL
   PO:
             TF:
                                                                  1,010 mL
                                                                    391 mL
   IVF:
                                                                  1,402 mL
                                                                    171 mL
   Blood products:
                                                                    597 mL
   Total out:
                                                                  2,443 mL
                                                                    210 mL
   Urine:
                                                                  1,582 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                    378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 250 (250 - 332) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.49/44/115/36/10
   Ve: 4.8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GEN: Intubated, sleepy but responsive
   SKIN: Stage 1 pressure ulcer on back, severe temporal wasting
   HEENT: Prominent JVP at 30 degrees (JVP 13cm), neck supple, No
   lymphadenopathy noted.
   CHEST: Diffuse Rhonchi in L base, otherwise clear
   CARDIAC: S1 & S2 regular with a [**2-2**] HSM at the LLSB
   ABDOMEN: G tube in place, no erythema around site.  Nontender or rigid
   EXTREMITIES: trace peripheral edema, warm without cyanosis
   NEUROLOGIC: Sedated, responding to commands while on low dose propofol,
   able to move all extremities, PERRL
   Labs / Radiology
   610 K/uL
   9.5 g/dL
   46 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   142 mEq/L
   30.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2171-3-2**]  08:09 PM
                             [**2171-3-3**]  03:21 AM
                             [**2171-3-3**]  12:09 PM
                             [**2171-3-4**]  02:37 AM
                             [**2171-3-4**]  01:20 PM
                             [**2171-3-5**]  03:15 AM
   WBC
   8.1
   7.1
   8.1
   Hct
   28.0
   29.1
   30.5
   Plt
   543
   558
   610
   Cr
   0.6
   0.7
   0.9
   TropT
   0.04
   0.03
   TCO2
   38
   34
   Glucose
   41
   240
   46
   Other labs: PT / PTT / INR:17.9/33.2/1.6, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status during/after
   [**Location (un) 1045**].
   #. Altered Mental Status: Now that he is extubated, his mental status
   is normal.
   .
   #. PNA: Has been treated for CAP at OSH with various antibiotics
   without cultures  , currently on treatment for nosocomial PNA with vanc
   zosyn. GNR in sputum.  On RA.
   -clarify OSH antibiotic cultures
   -continue vanc/zosyn for now
   -f/u Blood cx, sputum cx and legionella negative
   -OSH cultures negative
   -d/w pulmonologist previous course
   .
   #. Cardiac mass:  myxoma vs fibroeslastoma per echo.  He may need
   cardiac surgery evaluation for possible resection to reduce risk of
   embolization.
   - discuss with patient about whether he would want surgical evaluation
   .
   #. Liver lesions:  multiphasic CT likely needs to be done for further
   evaluation
   - order CT
   -mucomyst pre-study
   .
   #. Pleural effusion:  transudative, unclear why given apparent NL heart
   on echo
   -f/u final studies/cx
   .
   #. Hypothermia: currently normothermic.
   .
   #. Metabolic Alkalosis: send ABG.  Possibly initially due to
   contraction, bicarb has improved.
   - Permissive hypercapnia
   - Monitor UOP
   #. Diabetes Mellitus: Highly variable blood sugars
   - Reduce home lantus to 8, Humalog SS + dextrose PRN
   - Tube feeds
 nutrition consult.
   #. ? RUE DVT: Currently sub therpeutic INR, U/S results not in records
   - f/u records
   - Transition to heparin drip if INR <2
   #. Sick Sinus: Paced, currently anticoagulated and rate controlled
   without medications, received Lidocaine in transit.
   - Hold metoprolol/diltiazem while rate controlled
   - Cardiac Enzymes
   .
   # Hx afib: subtherapeutic INR today.  However, given thrombogenic
   vegetation, will bridge with heparin gtt
   - start heparin gtt
   .
   #. Ventricular Dilitation: Possible NPH as cause, but MS cleared
   .
   #. G-tube placement for ? esophagitis:  Will contact team in [**Name (NI) 490**]
   re: need for G-tube, in patient vs. outpatient GI to address esophageal
   issues, speech and swallow once awake.
   - continue Tube feeds, nutrition recs
   #. Anemia: Anemia of chronic inflammation.
   -transfuse if HCT < 21
   # Liver lesions on CT scan:
   - evaluate with triphasic CT of liver
   #. CAD: Continue ASA,
   - continue metoprolol
   -restart statin
   #. Hypertension:
   -continue home metoprolol, holding lisinopril given anticipation of dye
   load,
   #. Hypothyroidism: Levothyroxine 150mcg PO Daily
   #. Chronic pancreatitis: Creon with meals/tube feeds
   # FEN: IVFs / replete lytes prn / tube feeds
   # PPX: H2 blocker, Therapeutic Coumadin & boots, bowel regimen
   # ACCESS: PIV x2, Plan for PICC line
   # CODE:  Full, discussed with patient's wife
   # CONTACT:  Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**], H (daughter): [**Telephone/Fax (1) 11378**];
   H: [**Telephone/Fax (1) 11379**]
   # ICU CONSENT: Signed
   # DISPOSITION:
   [ ] Floor pending further investigation
   [x ] Floor
   [ ] Stepdown / [**Hospital Unit Name 2852**]
   [] ICU

2171-03-05 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo gentleman transferred from OSH w/ prog pneumonia and acute
   respiratory failure.
   24 Hour Events:
   extubated yest. 860cc straw-colored fluid removed viat thoracentesis
   yest pm.  some confusion overnight. low BGs this AM. some wheezing
   overnight also reported.
   this am denies sob or pain
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-2**] 07:30 PM
   Piperacillin - [**2171-3-5**] 04:00 AM
   Vancomycin - [**2171-3-5**] 08:41 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-3-4**] 10:00 PM
   Dextrose 50% - [**2171-3-5**] 04:30 AM
   Other medications:
   [**Last Name (LF) 750**], [**First Name3 (LF) 68**], Synthroid, folate, Vit D, Creon, Colace, metoprolol,
   albuterol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-5**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.5
C (95.9
   HR: 86 (62 - 92) bpm
   BP: 140/60(81) {98/50(63) - 163/107(114)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.5 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  3,369 mL
                                                                    937 mL
   PO:
             TF:
                                                                  1,010 mL
                                                                    509 mL
   IVF:
                                                                  1,402 mL
                                                                    404 mL
   Blood products:
                                                                    597 mL
   Total out:
                                                                  2,443 mL
                                                                    430 mL
   Urine:
                                                                  1,582 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
                                                                    860 mL
   Balance:
                                                                     66 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 250 (250 - 250) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.49/44/115/36/10
   Ve: 4.8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : on R, Rhonchorous: on L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name place and time but not president of the
   US, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   610 K/uL
   46 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   142 mEq/L
   30.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2171-3-2**]  08:09 PM
                             [**2171-3-3**]  03:21 AM
                             [**2171-3-3**]  12:09 PM
                             [**2171-3-4**]  02:37 AM
                             [**2171-3-4**]  01:20 PM
                             [**2171-3-5**]  03:15 AM
   WBC
   8.1
   7.1
   8.1
   Hct
   28.0
   29.1
   30.5
   Plt
   543
   558
   610
   Cr
   0.6
   0.7
   0.9
   TropT
   0.04
   0.03
   TCO2
   38
   34
   Glucose
   41
   240
   46
   Other labs: PT / PTT / INR:17.9/33.2/1.6, CK / CKMB /
   Troponin-T:27//0.03, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: ABG ([**3-4**])- 7.49 / 44 / 115
   Pleural fluid- cx pending, wbc 1700 (5pmn, 58l, 28mac, 5 mono, 2 meso),
   pH 7.62, prot 1.8, gluc 126, LDH 52
   Imaging: TTE ([**3-4**])- partially mobile smooth-walled, mass on septal and
   atrial side of tricuspid valve 1.6cm in size; EF 55%, mild MS, 1+ MR,
   TR gradient 32
   LUE U/S ([**3-4**])- pending
   CXR- L lung infiltrates
   Microbiology: [**3-3**] Sputum- GNRs
   Assessment and Plan
   68 yo gentleman transferred from OSH w/ prog pneumonia and acute
   respiratory failure.
   1. Acute respiratory failure-resolved, significant pulmonary/ pleural
   disease on the left, treated as pneumonia but some med record evidence
   of older process being followed by outpt Pulm
   -treating empirically w/ vanco + pip-tazo --> f/u cx, will be
   completing a 14d course today
   -f/u pleural fluid cx and cytology
   -pulm toilet
   -will be in touch w/ outpt pulmonologist as above
   2. Tricuspid vegetation-suspicious for tumor, per echo report
   characteristics c/w myxoma or fibroelastoma
   -will need to discuss w/ pt and family re: further intervention, as
   size would warrant surgical mgmt
   -Card [**Doctor First Name 3**] consult
   3. LUE swelling- f/u LUE ultrasound from yest
   4. Esophageal stricture and erosions- s/p G tube [**2-26**]
   -cont tube feeds
   -swallow eval today
   5. Liver lesions on CT
   -anticipate eventual further imaging of liver w/ triphasic CT
   -Renal protection w/ IVF and Mucomyst
   6. CAD- stable
   -cont BB and [**Month/Day (2) 68**]; holding statin
   7. Afib/ SSS- was on coumadin, subther INR today
   -rate-controlled for now
   -start on heparin gtt today
   8. HTN- cautious resumption of BP meds
   9. gen care- PT/OT
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Comments:
   hypoglycemia this am
   Lines:
   14 Gauge - [**2171-3-3**] 06:25 PM
   PICC Line - [**2171-3-4**] 10:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 6181**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   68 yo man with left PNA, respiratory failure, was extubated yesterday
   after thoracentesis.  Doing well.  Has cough with sputum.
   Exam notable for thin, cachectic gentlemen.  b/l rhonchi.  Irreg HR,
   Abd: soft.  Ext. no edema.
   Respiratory failure:  complete course for PNA.
   Tricuspid veg:  Likely benign tumour.
   Afib: rate controlled.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2171-3-5**] 15:42 ------

2171-03-07 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2171-3-6**] 08:00 AM
 SPUTUM CULTURE - At [**2171-3-6**] 08:00 AM
   - changed to ARDSnet tidal volumes
   - patient intermittently requiring low-dose levophed to maintain MAP
   >65, also IVNS boluses, go off levophed in the evening
   - per post-arrest consult team, ordered continuous EEG monitoring
   - CE flat, repeat echo with mild global hypokinesis, EF 45% (from >55%
   pre-arrest), no major valvular abnormalities
   - family would like to arrange meeting after rounds [**3-7**]
   - CT read
   - weaned sedation off entirely, still not waking up
   - R pupil>L--> head CT negative for acute process, anisocoria resolved
   - BP trending back down, restarted neo overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-3-6**] 08:11 PM
   Piperacillin - [**2171-3-7**] 05:52 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2171-3-6**] 08:12 AM
   Fentanyl - [**2171-3-6**] 08:12 AM
   Pantoprazole (Protonix) - [**2171-3-6**] 09:46 AM
   Dextrose 50% - [**2171-3-7**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-7**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.6
   HR: 79 (72 - 123) bpm
   BP: 108/49(62) {82/41(56) - 125/60(74)} mmHg
   RR: 24 (21 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
    CO/CI (Fick): (5 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 54 - 63
   Total In:
                                                                  8,199 mL
                                                                  1,541 mL
   PO:
   TF:
   IVF:
                                                                  7,734 mL
                                                                  1,466 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    295 mL
                                                                    120 mL
   Urine:
                                                                    295 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,904 mL
                                                                  1,421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 21.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/42/78.[**Numeric Identifier 274**]/24/2
   Ve: 9.3 L/min
   PaO2 / FiO2: 197
   Physical Examination
   VS: T 97.5  HR 120 afib BP 130/80  AC 450x18 FiO2 100%
   GEN: Thin elderly male, temporal wasting, initially pulling at ET tube
   but then after sedation non responsive
   SKIN: Stage 1 pressure ulcer on back
   HEENT: PERRL, sclera anicteric, MMM, JVP flat at 30 degrees
   CHEST: Diffuse rhonchi
   CARDIAC: Irreg rhythm, no murmurs
   ABDOMEN: G tube in place, no erythema around site. +BS, soft,
   nontender, nondistended
   EXTREMITIES: no peripheral edema, slightly cool, 2+ DP pulses
   Labs / Radiology
   481 K/uL
   9.5 g/dL
   46 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   108 mEq/L
   137 mEq/L
   28.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2171-3-4**]  01:20 PM
                             [**2171-3-5**]  03:15 AM
                             [**2171-3-6**]  07:02 AM
                             [**2171-3-6**]  07:43 AM
                             [**2171-3-6**]  07:46 AM
                             [**2171-3-6**]  11:44 AM
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
   WBC
   8.1
   12.5
   17.7
   Hct
   30.5
   28.6
   28.9
   Plt
   [**Telephone/Fax (3) 11443**]
   Cr
   0.9
   0.8
   1.1
   TropT
   0.03
   0.04
   TCO2
   34
   30
   31
   30
   29
   28
   Glucose
   46
   223
   46
   Other labs: PT / PTT / INR:16.6/33.2/1.5, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.5 mmol/L, LDH:302 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status during/after
   [**Location (un) 1045**].
   # PEA Arrest: given tube feeds in suctioning and high aspiration risk,
   aspiration event leading to code was the likely inciting event.  No
   events on tele, and PEA was a tachycardia (afib with RVR).
   -hold tube feeds
   -obtain CXR and repeat ABG
   -send cardiac enzymes, ROMI
   -lactate elevated to 5.0, give 1 L NS and monitor UOP, trend lactate
   -monitor tele.
   # Altered MS: the patient has had some anoxic injury however still had
   purposeful movments following intubation, pulling at ET tube, but
   currently is sedated on propofol.
   -attempt to wean propofol, daily wake ups and monitor neurologic status
   -subacute course of urinary incontinence, gait difficulty (shuffling
   without other signs of parkinsons) and memory / attention deficits in
   addition to CT imaging of head would imply possible NPH which should be
   worked up in the future.
   # Aspiration event: Had PNA prior to his transfer to the [**Hospital1 1**].  Today
   [**3-6**] is day 14 of Zosyn, also on vancomycin.
   -continue broad spectrum abx for now given new aspiration event
   -f/u CXR
   # Afib with RVR: PPM, dual chamber, new afib.
   -contninue heparin goal PTT 50-70
   -continue metoprolol at increased dose of 37.5mg po tid
   # Tricuspid valve mass:   CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   # Hepatic lesions: f/u final read of multiphasic CT scan of the liver.
   # Diarrhea: check C diff.
   # Hematuria: Likely foley trauma in setting of heparin gtt.
   - continue to monitor, flush prn, when extubated can remove foley
   # Diabetes Mellitus: hold tube feeds, decrease lantus to 4 units qhs
   and sliding scale.
   # Anemia: Iron studies c/w ACD.
   - cont. to monitor
   #CAD:
   - cont. metoprolol and ASA, heparin drip for afib
   # Chronic pancreatitis:
   - cont. Creon with meals/tube feeds.
   # Erosive esophagitis: Seen on EGD at OSH.
   - change famotidine to PPI.
   FEN: no IVFs, monitor/replete electrolytes, tube feeds
   PPx: PPI, heparin gtt, bowel regimen
   IV ACCESS: PICC
   CODE: Full, discussed with patient's wife
   CONTACT: Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**]; Daughter: [**Telephone/Fax (1) 11378**]; H:
   [**Telephone/Fax (1) 11379**]
   ---------------------------------------
   Addendum:
   Since transfer to the MICU, BP has dropped to systolic 76, MAP 50.  1L
   IVF bolus and levophed started.  Lactated elevated to 5.  Plateau
   pressures are 28, PEEP is only 5.  Heart sounds are easily audible.
   CXR w/o pneumothorax.  Will treat as septic shock currently.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-03-07 10:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo w/ hx NHL and remote mantle XRT w/ subsequent esophageal
   stricture, recurrent aspiration s/p PEG on [**2171-2-26**]. Readmitted to MICU
   this AM after PEA arrest and hypoxemic resp failure.
   24 Hour Events:
   Unable to wean from norepi gtt despite approx 10L resuscitation.
   [**Name8 (MD) **] RN and housestaff, family asking for mtg today. Decreased MS
   despite sedation hold --> head CT obtained. Also w/ persistent
   hypoglycemia necessitating repeated D50 boluses.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2171-3-7**] 05:52 AM
   Vancomycin - [**2171-3-7**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2171-3-7**] 05:52 AM
   Pantoprazole (Protonix) - [**2171-3-7**] 08:00 AM
   Other medications:
   Colace, Folate, Vit D, Synthroid, ASA, RISS, Vanco, Protonix, Atrovent,
   Albuterol, Peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-7**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 83 (72 - 123) bpm
   BP: 101/50(63) {82/41(56) - 125/60(73)} mmHg
   RR: 24 (21 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
   CO/CI (Fick): (5 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 54 - 63
   Total In:
                                                                  8,199 mL
                                                                  1,965 mL
   PO:
   TF:
   IVF:
                                                                  7,734 mL
                                                                  1,890 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    295 mL
                                                                    150 mL
   Urine:
                                                                    295 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,904 mL
                                                                  1,817 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 25 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/42/79
   Ve: 10.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant, No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   481 K/uL
   46 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   108 mEq/L
   137 mEq/L
   28.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2171-3-4**]  01:20 PM
                             [**2171-3-5**]  03:15 AM
                             [**2171-3-6**]  07:02 AM
                             [**2171-3-6**]  07:43 AM
                             [**2171-3-6**]  07:46 AM
                             [**2171-3-6**]  11:44 AM
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
   WBC
   8.1
   12.5
   17.7
   Hct
   30.5
   28.6
   28.9
   Plt
   [**Telephone/Fax (3) 11443**]
   Cr
   0.9
   0.8
   1.1
   TropT
   0.03
   0.04
   TCO2
   34
   30
   31
   30
   29
   28
   Glucose
   46
   223
   46
   Other labs: PT / PTT / INR:16.6/33.2/1.5, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.5 mmol/L, LDH:302 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Imaging: Echo ([**3-6**])- EF 40-45%, mild AR, mild MR, TV tumor mass, mod
   TR, TR grad 25, RV dilation
   CT head- no acute process
   CXR- diffuse interstitial  infiltrates compared to yest
   CT triphasic liver- heterogenous liver; RP adenopathy
   Microbiology: C diff- not sent
   Pan culture [**3-6**]- pending
   Assessment and Plan
   68 yo w/ hx NHL and remote mantle XRT w/ subsequent esophageal
   stricture, recurrent aspiration s/p PEG on [**2171-2-26**]. Readmitted to MICU
   [**3-6**] after PEA arrest and hypoxemic resp failure.
   1. PEA Arrest- most likely hypoxemic from plugging/ aspiration based on
   clinical scenario.
   -tx resp failure as below
   -follow on telemetry; replete lytes
   2. Shock- presumed septic shock given aspiration hx; no evidence of
   cardiogenic shock at this point
   -fluid resuscitation
   -wean norepi
   -follow ScvO2
   3. Hypoxemic respiratory failure- probable aspiration, w/ GNRs in
   sputum from [**3-3**]
   -cont vanco + Zosyn for now; f/u cultures
   4. Obtundation- despite sedation hold; will assess off sedation today
   5. Recurrent aspiration- failed bedside swallow yesterday; continued
   aspiration of tube feeds
   -strict npo and hold tube feeds
   6. Hematuria- hx of foley trauma, reosolving
   -hold anticoag
   7. Tricuspid valve mass- CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   8. Hepatic lesions- f/u final read of multiphasic CT scan of the liver.
   9. Diarrhea- check C diff.
   10. Hypoglycemia- cut Lantus dose in half
   11. Goals of care- per pt's daughters, pt would not have wanted
   prolonged course of vent dependence or rehabilitation
   -fam mtg today re: goals of care
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Regular insulin sliding scale, Comments:
   hypoglyemic- cutting Lantus
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 6181**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   68 yo man wiith respiratory failure after recurrent aspiration.  He has
   improved with decreased oxygen requirement since yesterday.
   Exam notable for b/l rales.   Is arousable and follows commands.
   Moving all four extremities.  Abd: soft
   A/P:
   Respiratory failure:  aspiration PNA, continue broad spectrum
   antibiotic.  CXR also with evidence of pulmonary edema , so can try to
   diurese.
   Aspiration:  will ask IR to convert G to J tube.
   Shock:  still on low dose neo, may be due to sedation.  Hold further
   IVF.
   Also had family meeting with patient
s daughters and wife.  Discussed
   that his long term prognosis is unclear at this point, but likely he
   will need a prolonged rehab stay to recover from this episode.  They
   note that he had a subacute decline, and mainly was able to function
   with a lot of support from his wife.   Currently because if he worsened
   and had an arrest prognosis would be much poorer, he has been made
   DNR/DNI.
   CC 80 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2171-3-7**] 16:21 ------

2171-03-08 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting: DNR/DNI, no escalation in care, comfort paramount
   - received furosemide 40 mg IV
   - GJ to be placed by IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-3-7**] 08:00 AM
   Piperacillin - [**2171-3-8**] 06:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-3-7**] 08:00 AM
   Furosemide (Lasix) - [**2171-3-7**] 08:00 PM
   Midazolam (Versed) - [**2171-3-8**] 05:19 AM
   Fentanyl - [**2171-3-8**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-8**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 83 (80 - 100) bpm
   BP: 140/60(81) {99/45(59) - 146/73(88)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,933 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                  2,828 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    315 mL
   Urine:
                                                                    955 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,978 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 469 (390 - 559) mL
   PS : 14 cmH2O
   RR (Set): 24
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/49/116/25/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   GEN: Thin elderly male, temporal wasting, intubated, responding to
   simple commands
   HEENT: PERRL, sclera anicteric, MMM, JVP flat at 30 degrees
   CHEST: Diffuse rhonchi
   CARDIAC: Irreg rhythm, no murmurs
   ABDOMEN: G tube in place, no erythema around site. +BS, soft,
   nontender, nondistended
   EXTREMITIES: no peripheral edema, slightly cool, 2+ DP pulses
   Labs / Radiology
   540 K/uL
   9.4 g/dL
   173 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   137 mEq/L
   29.2 %
   20.5 K/uL
        [image002.jpg]
                             [**2171-3-6**]  07:02 AM
                             [**2171-3-6**]  07:43 AM
                             [**2171-3-6**]  07:46 AM
                             [**2171-3-6**]  11:44 AM
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
   WBC
   12.5
   17.7
   20.5
   Hct
   28.6
   28.9
   29.2
   Plt
   578
   481
   540
   Cr
   0.8
   1.1
   1.5
   TropT
   0.03
   0.04
   TCO2
   30
   31
   30
   29
   28
   28
   Glucose
   223
   46
   173
   Other labs: PT / PTT / INR:16.6/33.2/1.5, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status with recurrent
   aspiration PNA / PEA arrest, regained pulse now intubated.
   # PEA Arrest:  need further assessment of neurologic status.
   -stop continuous EEG monitoring
   -monitor neurologic status.
   -continue periodic family mtgs to discuss prognosis
   .
   # Aspiration PNA / respiratory failure:
   -continue to hold tube feeds pending post pyloric tube placement
   -PaO2/FiO2 ratio 200, continue current vent settings and continue to
   monitor
   -continue vanc/zosyn (day 1 = [**3-6**], day [**3-3**])
   - Wean peep as tolerated
   .
   # Hypotension: continue levophed.  Likely related to sepsis as well as
   sedating medications.  Wean sedation as above.
   - restart bb in am if stable overnight
   .
   # Afib with RVR: currently well rate controlled HR 90 off of lopressor,
   - held heparin for hematuria, however stable will restart without bolus
   - warfarin in AM if stable overnight
   - continue to hold given hypotension
   # [**Last Name (un) 2406**]: likely multifactorial, secondary to hypotension during arrest,
   contrast load, etc.
   - [**Hospital1 **] lytes
   - diuresis goal
 1.5L today
   # leukocytosis: continue to monitor for infection, would consider c
   diff workup
   .
   # Tricuspid valve mass:   CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   # Hepatic lesions: outpatient follow up.
   # Hematuria: Likely foley trauma in setting of heparin gtt.
   - continue to monitor, flush prn, when extubated can remove foley
   # Diabetes Mellitus: hold tube feeds, decrease lantus to 2  units qhs
   and sliding scale.
   # Anemia: Iron studies c/w ACD.
   - cont. to monitor
   #CAD:
   - cont. metoprolol and ASA, heparin drip for afib
   # Chronic pancreatitis:
   - cont. Creon with meals/tube feeds.
   # Erosive esophagitis: Seen on EGD at OSH.
   - change famotidine to PPI.
   FEN: no IVFs, monitor/replete electrolytes, tube feeds
   PPx: PPI, heparin gtt, bowel regimen
   IV ACCESS: PICC
   CODE: Full, discussed with patient's wife
   CONTACT: Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**]; Daughter: [**Telephone/Fax (1) 11378**]; H:
   [**Telephone/Fax (1) 11379**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-03-08 09:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo man with respiratory failure/PEA arrest from aspiration PNA.
   Patient improving overnight.  Was diuresed.  Has been afebrile.  To get
   G to J tube today.  Has weaned off the pressors.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-3-7**] 08:00 AM
   Piperacillin - [**2171-3-8**] 06:23 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2171-3-8**] 05:19 AM
   Fentanyl - [**2171-3-8**] 06:23 AM
   Pantoprazole (Protonix) - [**2171-3-8**] 08:00 AM
   Furosemide (Lasix) - [**2171-3-8**] 08:41 AM
   Other medications:
   Versed boluses (4mg)
   Fentanyl (350 mcg)
   colace
   folate
   Vitamin D
   synthroid
   ASA
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-8**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 72 (72 - 100) bpm
   BP: 122/58(73) {101/45(59) - 146/73(88)} mmHg
   RR: 13 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,933 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  2,828 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    365 mL
   Urine:
                                                                    955 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,978 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 469 (390 - 559) mL
   PS : 14 cmH2O
   RR (Set): 24
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.34/49/116/25/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l 1/2 up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Cool, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   540 K/uL
   173 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   137 mEq/L
   29.2 %
   20.5 K/uL
        [image002.jpg]
                             [**2171-3-6**]  07:02 AM
                             [**2171-3-6**]  07:43 AM
                             [**2171-3-6**]  07:46 AM
                             [**2171-3-6**]  11:44 AM
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
   WBC
   12.5
   17.7
   20.5
   Hct
   28.6
   28.9
   29.2
   Plt
   578
   481
   540
   Cr
   0.8
   1.1
   1.5
   TropT
   0.03
   0.04
   TCO2
   30
   31
   30
   29
   28
   28
   Glucose
   223
   46
   173
   Other labs: PT / PTT / INR:16.6/33.2/1.5, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   Respiratory failure:  aspiration PNA.  Sounds wet.  Will continue to
   diurese as he is quite crackly.
   aspiration PNA:  continue vanco/zosyn. Day [**3-6**].
   acute renal failure:  may be from contrast dye or from ATN from
   arrest.  follow for now.
   HOTN:  improved, off norepi.
   leukocytosis:  check stoof for C. diff.
   TFs: Can resume TFs after G-J.
   AFib:  should be anticoagulated.  Will start heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:  40 minutes
   Patient is critically Ill

2171-03-09 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2171-3-8**] 09:00 AM
   G-J Tube replacement
   - Vanco level 35
   - repeat Vanco level 31
   - d/c Vanco for now (from POE), level to be checked in AM labs
   - IR with post pyloric tube placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2171-3-7**] 08:00 AM
   Piperacillin - [**2171-3-9**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-3-8**] 08:00 AM
   Furosemide (Lasix) - [**2171-3-8**] 08:41 AM
   Midazolam (Versed) - [**2171-3-8**] 01:22 PM
   Fentanyl - [**2171-3-9**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-9**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 80 (64 - 99) bpm
   BP: 144/77(92) {99/45(58) - 162/86(103)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                    550 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                    550 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    255 mL
   Urine:
                                                                  1,865 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 478 (324 - 478) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 100
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   461 K/uL
   9.3 g/dL
   126 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   36 mg/dL
   104 mEq/L
   140 mEq/L
   28.4 %
   19.9 K/uL
        [image002.jpg]
                             [**2171-3-6**]  07:46 AM
                             [**2171-3-6**]  11:44 AM
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
                             [**2171-3-8**]  07:30 PM
                             [**2171-3-9**]  03:49 AM
   WBC
   17.7
   20.5
   19.9
   Hct
   28.9
   29.2
   28.4
   Plt
   481
   540
   461
   Cr
   1.1
   1.5
   1.6
   1.7
   TropT
   0.04
   TCO2
   31
   30
   29
   28
   28
   Glucose
   46
   173
   134
   126
   Other labs: PT / PTT / INR:30.0/37.7/3.0, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status with recurrent
   aspiration PNA / PEA arrest, regained pulse now intubated.
   # PEA Arrest:  need further assessment of neurologic status.
   -stop continuous EEG monitoring
   -monitor neurologic status.
   -continue periodic family mtgs to discuss prognosis
   # Aspiration PNA / respiratory failure:
   -continue to hold tube feeds pending post pyloric tube placement
   -PaO2/FiO2 ratio 200, continue current vent settings and continue to
   monitor
   -continue vanc/zosyn (day 1 = [**3-6**], day [**3-3**])
   - Wean peep as tolerated
   # Hypotension: continue levophed.  Likely related to sepsis as well as
   sedating medications.  Wean sedation as above.
   - restart bb in am if stable overnight
   # Afib with RVR: currently well rate controlled HR 90 off of lopressor,
   - held heparin for hematuria, however stable will restart without bolus
   - warfarin in AM if stable overnight
   - continue to hold given hypotension
   # [**Last Name (un) 2406**]: likely multifactorial, secondary to hypotension during arrest,
   contrast load, etc.
   - [**Hospital1 **] lytes
   - diuresis goal
 1.5L today
   # leukocytosis: continue to monitor for infection, would consider c
   diff workup
   # Tricuspid valve mass:   CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   # Hepatic lesions: outpatient follow up.
   # Hematuria: Likely foley trauma in setting of heparin gtt.
   - continue to monitor, flush prn, when extubated can remove foley
   # Diabetes Mellitus: hold tube feeds, decrease lantus to 2  units qhs
   and sliding scale.
   # Anemia: Iron studies c/w ACD.
   - cont. to monitor
   #CAD:
   - cont. metoprolol and ASA, heparin drip for afib
   # Chronic pancreatitis:
   - cont. Creon with meals/tube feeds.
   # Erosive esophagitis: Seen on EGD at OSH.
   - change famotidine to PPI.
   FEN: no IVFs, monitor/replete electrolytes, tube feeds
   PPx: PPI, heparin gtt, bowel regimen
   IV ACCESS: PICC
   CODE: Full, discussed with patient's wife
   CONTACT: Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**]; Daughter: [**Telephone/Fax (1) 11378**]; H:
   [**Telephone/Fax (1) 11379**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-03-10 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - on psv 8/8 in AM, gas OK so changed to 8/5
   - patient more tachypneic, agitated, uncomfortable, states difficulty
   breathing-->back on AC
   - agitated, got haldol and fentanyl bolus, starting standing seroquel
   - met with daughters: plan to await medical readiness to extubate but
   no re-intubation.  Would like to talk to SW and palliative care
   regarding planning for after that.
   - SW spoke with wife
   - palliative care consulted ([**First Name4 (NamePattern1) 1283**] [**Last Name (NamePattern1) **]) and will see Monday
   - agitated overnight, getting Haldol, standing seroquel, fentanyl
   boluses....trying midaz boluses
   - RSBI 70, back on PSV 8/8 this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2171-3-10**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2171-3-9**] 11:20 AM
   Haloperidol (Haldol) - [**2171-3-10**] 02:00 AM
   Midazolam (Versed) - [**2171-3-10**] 05:20 AM
   Propofol - [**2171-3-10**] 07:15 AM
   Fentanyl - [**2171-3-10**] 07:53 AM
   Pantoprazole (Protonix) - [**2171-3-10**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-10**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 69 (61 - 104) bpm
   BP: 122/56(72) {104/42(58) - 164/112(120)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                    622 mL
                                                                    428 mL
   PO:
             TF:
                                                                     72 mL
                                                                    123 mL
   IVF:
                                                                    550 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    563 mL
   Urine:
                                                                  1,195 mL
                                                                    563 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -573 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 507 (340 - 507) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 17 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.31/54/87.[**Numeric Identifier 274**]/27/0
   Ve: 10 L/min
   PaO2 / FiO2: 220
   Physical Examination
   GEN: Thin elderly male, temporal wasting, intubated, responding to
   simple commands
   HEENT: PERRL, sclera anicteric, MMM, JVP flat at 30 degrees
   CHEST: Diffuse rhonchi
   CARDIAC: Irreg rhythm, no murmurs
   ABDOMEN: G tube in place, no erythema around site. +BS, soft,
   nontender, nondistended
   EXTREMITIES: no peripheral edema, slightly cool, 2+ DP pulses
   Labs / Radiology
   412 K/uL
   8.6 g/dL
   117 mg/dL
   1.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   41 mg/dL
   106 mEq/L
   140 mEq/L
   26.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2171-3-6**]  04:01 PM
                             [**2171-3-6**]  04:25 PM
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
                             [**2171-3-8**]  07:30 PM
                             [**2171-3-9**]  03:49 AM
                             [**2171-3-9**]  12:53 PM
                             [**2171-3-10**]  04:07 AM
   WBC
   17.7
   20.5
   19.9
   13.3
   Hct
   28.9
   29.2
   28.4
   26.6
   Plt
   481
   540
   461
   412
   Cr
   1.1
   1.5
   1.6
   1.7
   1.7
   TropT
   0.04
   TCO2
   29
   28
   28
   28
   Glucose
   46
   173
   134
   126
   117
   Other labs: PT / PTT / INR:41.4/42.4/4.4, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status with recurrent
   aspiration leading to PEA arrest, now re-intubated.
   # Goal of care: family recently changed code to DNR/DNI, wishing for
   comfort above all; will wait to see if patient can be medically
   extubated, but if no clinical improvement, will likely lean toward CMO.
   - continue to update family
   - palliative care
   - pain control
   .
   # Aspiration PNA / respiratory failure: on PSV, requiring intermittent
   sedation. Barrier of extubation is mostly mental status now.
   -attempt to wean ventilatory support if possible; will keep intubated
   today because other arrangements (palliative care, pain control, family
   wishes) need to be sorted out before extubation
   - diuresed for goal -500 cc I/O today
   -continue vanc/pip-tazo (day 1 = [**3-6**]) x 8 days
   # Afib: currently well rate controlled HR 80s, in sinus
   -continue metoprolol
   -hold anticoagulation given hematuria
   # [**Last Name (un) 2406**]: likely multifactorial, secondary to hypotension during arrest,
   contrast load, etc.
   # Elevated INR: No warfarin. Most likely from nutritional deficiency,
   antibiotics.
   - vitamin K
   # Tricuspid valve mass:   CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   # Hepatic lesions: outpatient follow up, pending goal of care.
   # Hematuria: Likely foley trauma in setting of heparin gtt.
   - continue to monitor, flush prn, when extubated can remove foley
   # Diabetes Mellitus: hold tube feeds, decrease lantus to 2  units qhs
   and sliding scale.
   # Anemia: Iron studies c/w ACD.
   - cont. to monitor
   #CAD:
   - cont. ASA
   # Chronic pancreatitis:
   - cont. Creon with meals/tube feeds.
   # Erosive esophagitis: Seen on EGD at OSH.
   - PPI
   FEN: no IVFs, monitor/replete electrolytes, tube feeds
   PPx: PPI, bowel regimen
   IV ACCESS: PICC
   CODE: DNR/DNI
   CONTACT: Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**]; Daughter: [**Telephone/Fax (1) 11378**]; H:
   [**Telephone/Fax (1) 11379**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-3-9**] 04:48 PM 36.[**Telephone/Fax (5) 11470**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-03-11 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family decided on terminal extubation on [**3-11**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2171-3-10**] 12:12 PM
   Rifampin - [**2171-3-10**] 05:42 PM
   Vancomycin - [**2171-3-10**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-11**] 12:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-3-10**] 08:08 AM
   Furosemide (Lasix) - [**2171-3-10**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-11**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 81) bpm
   BP: 99/45(59) {86/42(54) - 125/75(88)} mmHg
   RR: 30 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,245 mL
                                                                    470 mL
   PO:
             TF:
                                                                    821 mL
                                                                    143 mL
   IVF:
                                                                  1,424 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  2,318 mL
                                                                    480 mL
   Urine:
                                                                  2,318 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 244 (170 - 381) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 133
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.8 cmH2O/mL
   SpO2: 95%
   ABG: ///31/
   Ve: 7.4 L/min
   Physical Examination
   GEN: Thin elderly male, temporal wasting, intubated, responding to
   simple commands
   HEENT: PERRL, sclera anicteric, MMM, JVP flat at 30 degrees
   CHEST: Diffuse rhonchi
   CARDIAC: Irreg rhythm, no murmurs
   ABDOMEN: G tube in place, no erythema around site. +BS, soft,
   nontender, nondistended
   EXTREMITIES: no peripheral edema, slightly cool, 2+ DP pulses
   Labs / Radiology
   370 K/uL
   9.1 g/dL
   76 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   38 mg/dL
   105 mEq/L
   143 mEq/L
   28.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
                             [**2171-3-8**]  07:30 PM
                             [**2171-3-9**]  03:49 AM
                             [**2171-3-9**]  12:53 PM
                             [**2171-3-10**]  04:07 AM
                             [**2171-3-10**]  12:26 PM
                             [**2171-3-11**]  05:22 AM
   WBC
   17.7
   20.5
   19.9
   13.3
   8.7
   Hct
   28.9
   29.2
   28.4
   26.6
   28.6
   Plt
   481
   540
   461
   412
   370
   Cr
   1.1
   1.5
   1.6
   1.7
   1.7
   1.5
   1.6
   TCO2
   28
   28
   28
   Glucose
   46
   173
   134
   126
   117
   167
   76
   Other labs: PT / PTT / INR:14.1/30.6/1.2, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ENDOCARDITIS, OTHER
 HYPOGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   A 68 yo gentleman with progressive decline transferred from [**Location (un) 11374**]
   after PNA/AMS with an acute change in mental status with recurrent
   aspiration leading to PEA arrest, now re-intubated.
   # Goal of care: family recently changed code status to DNR/DNI, wishing
   for comfort above all; per family meeting will plan for extubation
   today
   - discuss with family timing of extubation
   - discuss the role of continuing antibiotics in the setting of poor
   prognosis; will continue for now
   - continue palliative care
   - pain control initially morphine boluses post extubation
   - tailor medications to comfort
   - contact cardiology regarding possible pacemaker with ICD function
   .
   # Aspiration PNA / respiratory failure: on PSV, requiring intermittent
   sedation. Barrier of extubation is mostly mental status now.
   - difficulty with weaning off ventilatory persists,
   - confirm with family the role of continuing antibiotics and continue
   for now
   # Afib: currently well rate controlled HR 80s, in sinus
   -continue metoprolol for HR > 60
   -hold anticoagulation given hematuria
   # [**Last Name (un) 2406**]: likely multifactorial, secondary to hypotension during arrest,
   contrast load, etc.
   # Elevated INR: No warfarin. Most likely from nutritional deficiency,
   antibiotics.
   - vitamin K
   # Tricuspid valve mass:   CT [**Doctor First Name **] consulted.  Not acute issue.  F/u CT
   [**Doctor First Name **] recs.
   # Hepatic lesions: outpatient follow up, pending goal of care.
   # Hematuria: Likely foley trauma in setting of heparin gtt.
   - continue to monitor, flush prn, when extubated can remove foley
   # Diabetes Mellitus: hold tube feeds, discontinue finger sticks and
   insulin
   # Anemia: Iron studies c/w ACD.
   - cont. to monitor
   #CAD:
   - cont. ASA
   # Chronic pancreatitis:
   - cont. Creon with meals/tube feeds.
   # Erosive esophagitis: Seen on EGD at OSH.
   - PPI
   FEN: no IVFs, monitor/replete electrolytes, tube feeds
   PPx: PPI, bowel regimen
   IV ACCESS: PICC
   CODE: DNR/DNI
   CONTACT: Wife [**Name (NI) 11376**] C: [**Telephone/Fax (1) 11377**]; Daughter: [**Telephone/Fax (1) 11378**]; H:
   [**Telephone/Fax (1) 11379**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-03-11 11:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68yo man with hx NHL s/p mantle and periaortic XRT, CAD s/p CABG [**2154**],
   originally transferred from OSH w/ resp failure due to aspiration pna,
   extubated and transferred to floor w/ subsequent re-admission on [**2171-3-3**]
   with PEA arrest thought to be [**1-29**] hypoxemia from recurr aspiration.
   24 Hour Events:
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2171-3-10**] 12:12 PM
   Rifampin - [**2171-3-10**] 05:42 PM
   Vancomycin - [**2171-3-10**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-3-11**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2171-3-10**] 12:30 PM
   Other medications:
   Colace, folate, vit D, Synthroid, ASA, RISS, Lantus, Albuterol,
   Atrovent, Peridex, Protonix, Seroquel, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-11**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 62 (60 - 81) bpm
   BP: 95/44(56) {86/43(54) - 125/75(88)} mmHg
   RR: 24 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   Wgt (current): 63.1 kg (admission): 63.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,245 mL
                                                                    577 mL
   PO:
             TF:
                                                                    821 mL
                                                                    143 mL
   IVF:
                                                                  1,424 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,318 mL
                                                                    605 mL
   Urine:
                                                                  2,318 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 320 (170 - 381) mL
   PS : 14 cmH2O
   RR (Set): 22
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 133
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.8 cmH2O/mL
   SpO2: 95%
   ABG: ///31/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   370 K/uL
   76 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.0 mEq/L
   38 mg/dL
   105 mEq/L
   143 mEq/L
   28.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2171-3-7**]  03:05 AM
                             [**2171-3-7**]  03:43 AM
                             [**2171-3-8**]  04:06 AM
                             [**2171-3-8**]  06:22 AM
                             [**2171-3-8**]  07:30 PM
                             [**2171-3-9**]  03:49 AM
                             [**2171-3-9**]  12:53 PM
                             [**2171-3-10**]  04:07 AM
                             [**2171-3-10**]  12:26 PM
                             [**2171-3-11**]  05:22 AM
   WBC
   17.7
   20.5
   19.9
   13.3
   8.7
   Hct
   28.9
   29.2
   28.4
   26.6
   28.6
   Plt
   481
   540
   461
   412
   370
   Cr
   1.1
   1.5
   1.6
   1.7
   1.7
   1.5
   1.6
   TCO2
   28
   28
   28
   Glucose
   46
   173
   134
   126
   117
   167
   76
   Other labs: PT / PTT / INR:14.1/30.6/1.2, CK / CKMB /
   Troponin-T:46//0.04, ALT / AST:35/54, Alk Phos / T Bili:147/0.4, Lactic
   Acid:1.2 mmol/L, LDH:302 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR ([**3-10**])-
   Microbiology: Blood- neg
   Sputum ([**3-6**])- Enterobacter
   Assessment and Plan
   68yo man with hx NHL s/p mantle and periaortic XRT, CAD s/p CABG [**2154**],
   originally transferred from OSH w/ resp failure due to aspiration pna,
   extubated and transferred to floor w/ subsequent re-admission on [**2171-3-3**]
   with PEA arrest thought to be [**1-29**] hypoxemia from recurr aspiration.
   1. Resp failure- Primary barriers to extubation appear to be agitation
   and possibly respiratory muscle weakness. Additionally w/ fluid
   overload from post arrest resusciation
   -supp mgmt
   -poss change in goals of care
   2. Afib- rate-controlled, holding anticoag now for elevated INR
   -deferring anticoag for ongoing hematuria as well as goals of care
   discussion
   -will interrogate pacer and possibly disable for change is goals of
   care as below
   3. Tricuspid valve- no acute interventions planned / possible. Will
   eventually need this further evaluated.
   4. Goals of care- per family, extubation planned for this pm per his
   previously stated wishes of not wanting prolonged intubation/ dependent
   care
   -clarify CMO status on extubation
   -disable pacer as above after disc w/ family
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2171-3-6**] 07:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, no new change.  The family has extensively discussed goals
   of care with the team over the weekend and planning on extubation and
   comfort care this afternoon.
   Afebrile     P: 60     BP: 140/80     Oxygen Saturation:  96%  on
   mechanical ventilation
   General: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: +[**12-29**] bilateral edema
   Labs: reviewed and as above
   Assessment:
   1)      Acute Respiratory Failure
   2)      Pulmonary Edema/anasarca
   3)      Acute renal failure
   4)      PEA arrest
   Plan:
   Had a discussion with the family who had already determined with the
   team over the weekend that the patient would not want to continue
   mechanical ventilation if he were in this condition.  I explained that
   there is a possibility that we could diurese the patient and ultimately
   extubate but they point out that the patient has had a steady decline
   and this is just another event along a pathway that the patient would
   not want to be on.  Thus, patient was extubated and he died shortly
   after extubation.
   Time Spent: 30 minutes, patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2171-3-11**] 19:28 ------